US06184225B2
1M Aqueous sodium hydroxide solution (4 ml, 4 mmol) was added to a solution of 4-(2-fluoro-5-methoxycarbonyloxy4-methylanilino)-7-hydroxy-6-methoxyquinazoline (820 mg, 2.2 mmol) in methanol (20 ml) and the mixture stirred for 1 hour at ambient temperature. Concentrated hydrochloric acid (0.8 ml) was added, the volatiles removed by evaporation and the residue purified by column chromatography eluting with methylene chloride/methanol (60/40) to give 4-(2-fluoro-5-hydroxy4-methylanilino)-7-hydroxy-6-methoxyquinazoline (313 mg, 45%).

reactant | sodium hydroxide | 4 mmol, 1M, 4 ml | [OH-].[Na+]
reactant | 4-(2-fluoro-5-methoxycarbonyloxy4-methylanilino)-7-hydroxy-6-methoxyquinazoline | 2.2 mmol, 820 mg | FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C(C(=C1)C)OC(=O)OC | C18H16FN3O5
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 4-(2-fluoro-5-hydroxy4-methylanilino)-7-hydroxy-6-methoxyquinazoline | 313 mg, 45% | FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C(C(=C1)C)O | C16H14FN3O3
